US09233977B2
Step 1: tert-butyl[3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-2-methyl-3-oxopropyl]carbamate
The 3-[(tert-butoxycarbonyl)amino]-2-methylpropanoic acid (3.0 g, 14.76 mmol) was dissolved in CH2Cl2 (73.8 ml), cooled to 0° C. and treated with 2,2-dimethyl-1,3-dioxane-4,6-dione (2.55 g, 17.71 mmol) and DMAP (2.71 g, 22.14 mmol) and EDC (3.40 g, 17.71 mmol) and allowed to stir at room temperature for 18 hrs. The reaction mixture was diluted with CH2Cl2, washed with 5% KHSO4 (×3), dried (Na2SO4), filtered and evaporated in vacuo to give the title compound: 1H NMR (400 MHz, CDCl3) δ 4.78 (bs, 1H), 4.23 (bs, 1H), 3.42 (m, 2H), 1.75 (s, 6H), 1.41 (s, 9H), 1.23 (d, J=6.8 Hz, 3H).

reactant | 3-[(tert-butoxycarbonyl)amino]-2-methylpropanoic acid | 14.76 mmol, 3.0 g | C(C)(C)(C)OC(=O)NCC(C(=O)O)C | C9H17NO4
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 17.71 mmol, 2.55 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | EDC | 17.71 mmol, 3.40 g
solvent | CH2Cl2 | 73.8 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 22.14 mmol, 2.71 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl[3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-2-methyl-3-oxopropyl]carbamate | C(C)(C)(C)OC(NCC(C(=O)C1C(OC(OC1=O)(C)C)=O)C)=O | C15H23NO7
